US08791130B2
N2-(2-Chloro-5-methoxy-4-(1-methyl-1H-1,2,3-triazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine
A mixture of N2-(4-bromo-2-chloro-5-methoxyphenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine (50 mg, 0.12 mmol), 1-methyl-5-(tributylstannyl)-1H-1,2,3-triazole (68 mg, 0.18 mmol) and Pd(dppf)2Cl2 (10 mg, 0.012 mmol) in dioxane (4 mL) was degassed under a stream of nitrogen for 10 min. The reaction mixture was heated to 100° C. for 18 h. Further amounts of 1-methyl-5-(tributylstannyl)-1H-1,2,3-triazole (68 mg, 0.18 mmol) and Pd(dppf)2Cl2 (10 mg, 0.012 mmol) were added and the mixture maintained at 100° C. for another 24 h, after which further amounts of 1-methyl-5-(tributylstannyl)-1H-1,2,3-triazole (68 mg, 0.18 mmol) and Pd(dppf)2Cl2 (10 mg, 0.012 mmol) were added. The mixture was maintained at 100° C. for another 48 h. The mixture was cooled and concentrated to dryness under vacuum, and the residue partitioned between DCM and water. The separated organic phase was concentrated to dryness under vacuum and the residue purified by RP-HPLC; the product was isolated as a cream solid (22 mg, 44%). LCMS (ESCI_Formic_MeCN): [MH+]=414 at 3.45 min. 1H NMR δ (DMSO-d6): 8.58 (s, 1H); 8.16 (s, 1H); 7.98 (s, 1H); 7.71 (s, 1H); 7.42 (s, 1H); 7.24 (d, J=5.1, 1H); 3.82 (s, 3H); 3.76 (s, 3H); 2.87 (d, J=4.4, 3H).

reactant | N2-(4-bromo-2-chloro-5-methoxyphenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 0.12 mmol, 50 mg | BrC1=CC(=C(C=C1OC)NC1=NC=C(C(=N1)NC)C(F)(F)F)Cl | C13H11BrClF3N4O
reactant | 1-methyl-5-(tributylstannyl)-1H-1,2,3-triazole | 0.18 mmol, 68 mg | CN1N=NC=C1[Sn](CCCC)(CCCC)CCCC
reactant | 1-methyl-5-(tributylstannyl)-1H-1,2,3-triazole | 0.18 mmol, 68 mg | CN1N=NC=C1[Sn](CCCC)(CCCC)CCCC
reactant | 1-methyl-5-(tributylstannyl)-1H-1,2,3-triazole | 0.18 mmol, 68 mg | CN1N=NC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.012 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(dppf)2Cl2 | 0.012 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(dppf)2Cl2 | 0.012 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N2-(2-Chloro-5-methoxy-4-(1-methyl-1H-1,2,3-triazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 22 mg, 44% | ClC1=C(C=C(C(=C1)C1=CN=NN1C)OC)NC1=NC=C(C(=N1)NC)C(F)(F)F | C16H15ClF3N7O
